### PR TITLE
[Merged by Bors] - feat(Analysis/Convex): convex functions are locally Lipschitz on the intrinsic interior (`proof_wanted`)

### PR DESCRIPTION
**Pull request by FrankieNC**
Prove the four `proof_wanted` statements in `Mathlib/Analysis/Convex/Continuous.lean`: a convex (resp. concave) function on a set `C` in a finite-dimensional real normed space is locally Lipschitz, hence continuous, on `intrinsicInterior ℝ C` — the intrinsic analogues of the existing `ConvexOn.locallyLipschitzOn_interior` and `ConvexOn.continuousOn_interior`.

- `ConvexOn.locallyLipschitzOn_intrinsicInterior` and its concave, `ContinuousOn` companions
- `Isometry.locallyLipschitzOn_image`: if `h ∘ g` is locally Lipschitz on `s` for an isometry `g`, then `h` is locally Lipschitz on `g '' s`

### CODE REVIEW

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 1]
```diff
@@ -221,6 +222,47 @@ protected lemma ConvexOn.locallyLipschitz (hf : ConvexOn ℝ univ f) : LocallyLi
 protected lemma ConcaveOn.locallyLipschitz (hf : ConcaveOn ℝ univ f) : LocallyLipschitz f := by
   simpa using hf.locallyLipschitzOn_interior
 
+/-- If `f` is locally Lipschitz on `s` after precomposition with an isometry `g`, then `f` is
+locally Lipschitz on `g '' s`. -/
+lemma Isometry.locallyLipschitzOn_image {α β γ : Type*} [EMetricSpace α] [PseudoEMetricSpace β]
+    [PseudoEMetricSpace γ] {g : α → β} {h : β → γ} {s : Set α} (hg : Isometry g)
+    (hL : LocallyLipschitzOn s (h ∘ g)) : LocallyLipschitzOn (g '' s) h := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Continuous.lean]: This has nothing to do with convex functions, right? Can you move it appropriately?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
